* rc_candidate hold leakage q=1
.OPTION POST=2 PROBE INGOLD=2 MEASDGT=6 METHOD=GEAR GSHUNT=1e-12
.TEMP 25
.INCLUDE "sram6t_rc_gate_direct.inc"
.PARAM VDD=0.7
VDD_SRC vdd 0 DC 'VDD'
VSS_SRC vss 0 DC 0

VBL bl 0 DC 'VDD'
VBLB blb 0 DC 'VDD'
VWL wl 0 DC 0
CQ q 0 1f
CQB qb 0 1f
CBL bl 0 10f
CBLB blb 0 10f
XSRAM bl blb wl q qb vdd vss SRAM6T_RC_GATE_DIRECT
.IC V(q)='VDD' V(qb)=0 V(bl)='VDD' V(blb)='VDD'
.TRAN 0.2p 1.2n
.PRINT TRAN V(q) V(qb)
.PRINT TRAN I(VDD_SRC)
.MEAS TRAN I_HOLD AVG I(VDD_SRC) FROM=0.60n TO=1.20n
.END
